US07361671B2
A mixture of 5-cyanomethyl-6-ethyl-pyridin-3-yl-acetic acid methyl ester (0.51 g, 2.34 mmol), 2-amino-3,4,6-trifluorothiophenol hydrochloride (0.54 g, 2.53 mmol) and BHT (10 mg) in a sealed reaction vessel is heated to 120° C. for 9 h. After cooling to room temperatue, the resulting slurry is adsorbed onto silica gel and purified by flash column chromatography (10-30% ethyl acetate in hexanes) to give 6-ethyl-5-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-pyridin-3-yl-acetic acid-methyl ester as a yellow oil (0.70 g, 79%): Rf 0.36 (50% ethyl acetate in n-heptane), 1H NMR (CDCl3, 300 MHz) δ 8.46 (s, 1 H), 7.64 (s, 1 H), 7.08-6.97 (m, 1 H), 4.50 (s, 2 H), 3.72 (s, 3 H), 3.65 (s, 2 H), 2.90 (q, J=7.4 Hz, 2 H), 1.29 (t, J=7.4 Hz, 3 H); ESI-LCMS m/z calcd for C18H15F3N2O2S: 380.1; found 381.0 (M+1)+.

reactant | 5-cyanomethyl-6-ethyl-pyridin-3-yl-acetic acid methyl ester | 2.34 mmol, 0.51 g | COC(CC=1C=NC(=C(C1)CC#N)CC)=O | C12H14N2O2
reactant | 2-amino-3,4,6-trifluorothiophenol hydrochloride | 2.53 mmol, 0.54 g | Cl.NC1=C(C(=CC(=C1F)F)F)S
product | 6-ethyl-5-(4,5,7-trifluoro-benzothiazol-2-ylmethyl)-pyridin-3-yl-acetic acid-methyl ester | 0.70 g, 79% | COC(CC=1C=NC(=C(C1)CC=1SC2=C(N1)C(=C(C=C2F)F)F)CC)=O | C18H15F3N2O2S
